US06281243B1
In 540 ml of anhydrous dimethylformamide 5 g of 2,3-dihydro-5-methoxy-1H-inden-4-ol were dissolved. The solution was stirred, placed under a steam of nitrogen and 1.5 g of a 60% dispersion of sodium hydride in oil was added. The reaction mixture was stirred at room temperature for half an hour. The temperature was raised to 100° C. and a solution of 7.78 g of (R)-3-methanesulfonyloxy-1-(phenylmethyl)-pyrrolidine in 78 ml of anhydrous dimethylformamide was added dropwise over 1 hour. Another 3,0 g of mesylate in 30 ml of anhydrous dimethylformamide were added dropwise over 0.5 hours and the reaction continued for another 1.5 hours at 100° C. Evaporation in vacuo gave a semi solid that was partitioned between water and ethyl acetate. The ethyl acetate extract was dried and evaporated in vacuo. The derived product was isolated by chromatography over silica using toluene/-ethanol as the eluent giving 9.45 g of (S)-3-[(2,3-dihydro-5-methoxy-1H-inden-4-yl)oxy]-1-(phenylmethyl)-pyrrolidine as an oil. M.S. (C.I.) (M/Z): 324 [M+H]+.

reactant | sodium hydride | [H-].[Na+]
reactant | (R)-3-methanesulfonyloxy-1-(phenylmethyl)-pyrrolidine | 7.78 g | CS(=O)(=O)O[C@H]1CN(CC1)CC1=CC=CC=C1 | C12H17NO3S
reactant | mesylate | 3,0 g | S(C)(=O)(=O)[O-]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2,3-dihydro-5-methoxy-1H-inden-4-ol | COC1=C(C=2CCCC2C=C1)O | C10H12O2
solvent | dimethylformamide | 540 ml, 5 g | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 78 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-3-[(2,3-dihydro-5-methoxy-1H-inden-4-yl)oxy]-1-(phenylmethyl)-pyrrolidine | 9.45 g | COC=1C(=C2CCCC2=CC1)O[C@@H]1CN(CC1)CC1=CC=CC=C1 | C21H25NO2
